US07074801B1
(4S)-4-Hydroxy-4-(6-iodo-1,3-benzothiazol-2-yl)butane nitrile
0.33 mL trifluoroacetic anhydride was added to a solution of 556 mg of (4S)-4-hydroxy-4-(6-iodo-1,3-benzothiazol-2-yl)butane amide obtained in Production Example 299 and 0.25 mL pyridine in tetrahydrofuran under ice-cooling, and the mixture was stirred for 2 hours. Water was added thereto, the reaction solution was then extracted with ethyl acetate, and the organic layer was dried over magnesium sulfate and purified by NH silica gel chromatography. The product was recrystallized from ethanol/ethyl acetate/hexane, to give 390 mg of the title compound as colorless crystals.

reactant | trifluoroacetic anhydride | 0.33 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (4S)-4-hydroxy-4-(6-iodo-1,3-benzothiazol-2-yl)butane amide | 556 mg | O[C@@H](CCC(=O)N)C=1SC2=C(N1)C=CC(=C2)I | C11H11IN2O2S
reactant | pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4S)-4-Hydroxy-4-(6-iodo-1,3-benzothiazol-2-yl)butane nitrile | 390 mg | O[C@@H](CCC#N)C=1SC2=C(N1)C=CC(=C2)I | C11H9IN2OS
